US08039460B2
Step B. Di-tert-butyl (3-hydroxy-3-methyl-2-oxobutyl)imidodicarbonate
Potassium permanganate (114 mg, 0.72 mmol) was added to a solution of di-tert-butyl (3-methylbut-2-en-1-yl)imidodicarbonate (115 mg, 0.40 mmol) in acetone (0.8 mL), water (0.2 mL), and glacial acetic acid (20 μL). After 4 h, the reaction was quenched with saturated aqueous sodium sulfite. The mixture was adjusted to pH 5 with aqueous hydrochloric acid and extracted with ethyl acetate (3×). The combined organic extracts were washed with saturated aqueous sodium bicarbonate, saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 340.1 (M+Na).

reactant | Potassium permanganate | 0.72 mmol, 114 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | di-tert-butyl (3-methylbut-2-en-1-yl)imidodicarbonate | 0.40 mmol, 115 mg | CC(=CCN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C15H27NO4
reactant | acetic acid | 20 μL | C(C)(=O)O | C2H4O2
reactant | water | 0.2 mL | O | H2O
solvent | acetone | 0.8 mL | CC(=O)C | C3H6O
product | Di-tert-butyl (3-hydroxy-3-methyl-2-oxobutyl)imidodicarbonate | OC(C(CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)(C)C | C15H27NO6
